US03951993
Upon heating a solution of 6 g of 4-methylbenzaldehyde and 15.9 g of 3-amino-3-ethoxyacrylic acid ethyl ester in 50 ml of alcohol for 6 hours, 2-amino-4-(4-methylphenyl)-6-ethoxy-4,5-dihydropyridine-3,5-dicarboxylic acid diethyl ester of melting point 119°C (ethyl acetate/petroleum ether) is obtained.

reactant | 4-methylbenzaldehyde | 6 g | CC1=CC=C(C=O)C=C1 | C8H8O
reactant | 3-amino-3-ethoxyacrylic acid ethyl ester | 15.9 g | C(C)OC(C=C(OCC)N)=O | C7H13NO3
product | 2-amino-4-(4-methylphenyl)-6-ethoxy-4,5-dihydropyridine-3,5-dicarboxylic acid diethyl ester | C(C)OC(=O)C1=C(N=C(C(C1C1=CC=C(C=C1)C)C(=O)OCC)OCC)N | C20H26N2O5
